US09302988B2
Step 4: 1-Benzyl-3-(4-chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylic acid (ACI-02)
To a suspension of ethyl 1-benzyl-3-(4-chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylate (8.50 g, 24.0 mmol) in THF (15 mL), EtOH (15 mL) and H2O (15 mL) was added LiOH.H2O (10.1 g, 240 mmol). The reaction mixture was stirred at reflux temperature for 2 h. To the reaction mixture were added extra H2O (45 mL) and EtOH (30 mL) and the reaction mixture was stirred at reflux temperature overnight. The reaction mixture was allowed to cool to room temperature and was almost completely concentrated. Aqueous 1 M KHSO4 (˜240 mL) was added to the reaction mixture while cooling with an ice-bath (pH reached 1), followed by the addition of EtOAc (500 mL). The organic layer was separated, washed with brine (2×400 mL), dried (Na2SO4) and concentrated. The residue was washed with a minimal amount of i-Pr2O and dried on a filter for 1 h to give ACI-02 (7.26 g, 93%).

reactant | ethyl 1-benzyl-3-(4-chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylate | 24.0 mmol, 8.50 g | C(C1=CC=CC=C1)N1C(=C(C(=C1)C)C1=CC=C(C=C1)Cl)C(=O)OCC | C21H20ClNO2
reactant | LiOH.H2O | 240 mmol, 10.1 g | O[Li].O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | H2O | 15 mL | O | H2O
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | H2O | 45 mL | O | H2O
product | 1-Benzyl-3-(4-chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C(=C1)C)C1=CC=C(C=C1)Cl)C(=O)O | C19H16ClNO2
